US09290451B2
6-(Tetrahydro-pyran-4-ylmethoxy)-5-trifluoromethyl-pyridine-2-carboxylic acid (1-dimethylcarbamoyl-1-ethyl-propyl)-amide
The title compound was synthesized in analogy to Example 1, using 2-ethyl-2-(6-((tetrahydro-2H-pyran-4-yl)methoxy)-5-(trifluoromethyl)picolinamido)butanoic acid (Example 253 a) and dimethylamine hydrochloride as starting materials. MS (EI): m/e=463.4 [M+NH4]+.

reactant | 2-ethyl-2-(6-((tetrahydro-2H-pyran-4-yl)methoxy)-5-(trifluoromethyl)picolinamido)butanoic acid | C(C)C(C(=O)O)(CC)NC(C1=NC(=C(C=C1)C(F)(F)F)OCC1CCOCC1)=O | C19H25F3N2O5
reactant | dimethylamine hydrochloride | Cl.CNC
product | 6-(Tetrahydro-pyran-4-ylmethoxy)-5-trifluoromethyl-pyridine-2-carboxylic acid (1-dimethylcarbamoyl-1-ethyl-propyl)-amide | CN(C(=O)C(CC)(CC)NC(=O)C1=NC(=C(C=C1)C(F)(F)F)OCC1CCOCC1)C | C21H30F3N3O4
